US06420426B1
A suspension of [5-fluoro-2-(3-nitro-benzylcarbamoyl)-phenoxy]-acetic acid ethyl ester (3.3 g, 8.77 mmol) in ethanol (40 mL) was treated with aq 2 N NaOH (24 mL, 47.8 mmol). After stirring for 4 h, the solution was concentrated in vacuo until most of the ethanol was removed, and the mixture was acidified to pH of 1 with 2 N HCl. After extracting with ethyl acetate, the organic layer was washed with saturated aq NaCl, dried over MgSO; and concentrated to give [5-fluoro-2-(3-nitro-benzylcarbamoyl)-phenoxy]-acetic acid as an off-white solid (3.00 g, 98%): mp 148-151° C.; Rf 0.39 (20% methanol in dichloromethane); 1H NMR (DMSO-d6 300 MHz) δ 9.20 (t, J=6.3 Hz, 1H) 8.18 (s, 1H), 8.09 (dd, J1=7.2 Hz, J2=2.7 Hz, 1 H), 7.90 (dd, J1=8.7 Hz, J2=7.0 Hz, 1H), 7.79 (d, J=7.5 Hz, 1H), 7.61 (t, J=7.8 Hz, 1H), 7.08 (dd, J1=10.8 Hz, J2=2.1 Hz, 1H), 6.91 (dt, J1=8.7 Hz, J2=2.4 Hz, 1H), 4.89 (s, 2H), 4.62 (d, J=6 Hz, 2H). ESI-LC/MS m/z calcd for C16H13FN2O6: 348.3; Found 347.0 (M−1)−. Anal. calcd for C16H13FN2O6: C, 55.18; H, 3.76; N, 8.04. Found C, 55.02; H, 3.79; N, 7.98.

reactant | [5-fluoro-2-(3-nitro-benzylcarbamoyl)-phenoxy]-acetic acid ethyl ester | 8.77 mmol, 3.3 g | C(C)OC(COC1=C(C=CC(=C1)F)C(NCC1=CC(=CC=C1)[N+](=O)[O-])=O)=O | C18H17FN2O6
reactant | NaOH | 47.8 mmol, 2 N, 24 mL | [OH-].[Na+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | [5-fluoro-2-(3-nitro-benzylcarbamoyl)-phenoxy]-acetic acid | 3.00 g, 98% | FC=1C=CC(=C(OCC(=O)O)C1)C(NCC1=CC(=CC=C1)[N+](=O)[O-])=O | C16H13FN2O6
